US07838675B2
ii) N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]-4-pyrimidinyl]-1-azetidinesulfonamide
The subtitle compound was prepared according to the procedure outlined in example 1 step iv) using a mixture of azetidine-1-sulfonamide (prepared according to patent WO 2004/011443, 0.24 g), tris(dibenzylideneacetone)dipalladium (0) (0.11 g), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (55 mg), cesium carbonate (0.57 g) and 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]-pyrimidine (0.47 g) in dioxane (8 mL). Purification was by column chromatography on silica using EtOAc/isohexane (3:7) as eluent to give the subtitle compound as a pale yellow solid. Yield: 0.49 g

reactant | azetidine-1-sulfonamide | 0.24 g | N1(CCC1)S(=O)(=O)N | C3H8N2O2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 55 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.57 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]-pyrimidine | 0.47 g | ClC1=NC(=NC(=C1)OC[C@H]1OC(OC1)(C)C)SCC1=C(C(=CC=C1)F)F | C17H17ClF2N2O3S
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.11 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)OC[C@H]1OC(OC1)(C)C | C20H24F2N4O5S2
